US09422281B2
Diisopropyl azodicarboxylate (0.013 ml, 0.066 mmol) was added dropwise to a 60° C. solution of (S)-N-(2-bromo-5-(1-hydroxypropan-2-ylamino)pyridin-4-yl)-4-methylbenzene sulfonamide (0.022 g, 0.055 mmol) and triphenylphosphine (0.017 g, 0.066 mmol) in THF (1.0 mL). The reaction mixture stirred at 60° C. for 10 min. The mixture was concentrated and the residue was purified via column chromatography on silica gel (Biotage 10 g column, gradient elution with 0-50% ethyl acetate-hexane) to afford (S)-7-bromo-3-methyl-1-tosyl-1,2,3,4-tetrahydropyrido[4,3-b]pyrazine (0.013 g, 62%) as a light purple solid. MS (ESI, pos. ion) m/z 382, 384.

reactant | Diisopropyl azodicarboxylate | 0.066 mmol, 0.013 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | (S)-N-(2-bromo-5-(1-hydroxypropan-2-ylamino)pyridin-4-yl)-4-methylbenzene sulfonamide | 0.055 mmol, 0.022 g | BrC1=NC=C(C(=C1)NS(=O)(=O)C1=CC=C(C=C1)C)N[C@H](CO)C | C15H18BrN3O3S
reactant | triphenylphosphine | 0.066 mmol, 0.017 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | (S)-7-bromo-3-methyl-1-tosyl-1,2,3,4-tetrahydropyrido[4,3-b]pyrazine | 0.013 g, 62% | BrC1=CC=2N(C[C@@H](NC2C=N1)C)S(=O)(=O)C1=CC=C(C)C=C1 | C15H16BrN3O2S
